US07902252B2
4.39. Synthesis of 6-(3-chloro-5-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (124)
The title compound was synthesized from methyl 6-(3-chloro-5-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.055 g, 0.18 mmol) and lithium hydroxide (0.076 g, 1.8 mmol, in 2 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (4 mL) was used. The resulting product was purified by reverse phase chromatography from MeOH and water (0.1% formic acid) to afford a light brown solid: 11 mg, 21% yield. 1H NMR (400 MHz, METHANOL-d4) δ ppm 1.97-2.17 (m, 1H) 2.30-2.53 (m, 3H) 2.69 (dd, J=13.52, 8.69 Hz, 1H) 3.09 (dd, J=13.52, 4.69 Hz, 1H) 3.33-3.40 (m, 1H) 6.56 (s, 1H) 6.85 (dd, J=9.54, 1.64 Hz, 1H) 6.94-7.07 (m, 2H); 19F NMR δ ppm −114.14 (t, J=0.8 Hz); LCMS-MS (ESI−) 292.0 (M−H); HPLC (UV=100%), (ELSD=100%).

reactant | methyl 6-(3-chloro-5-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.18 mmol, 0.055 g | ClC=1C=C(CC2CCC3=C2NC(=C3)C(=O)OC)C=C(C1)F | C16H15ClFNO2
reactant | lithium hydroxide | 1.8 mmol, 2 mL, 0.076 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 6-(3-chloro-5-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 21% yield | ClC=1C=C(CC2CCC3=C2NC(=C3)C(=O)O)C=C(C1)F | C15H13ClFNO2
